* source EEG_AMPLIFIER
R_R1         N00249 N00264  1k TC=0,0 
R_R2         N00242 N00279  1k TC=0,0 
R_R3         N00223 N00216  2.2k TC=0,0 
R_R4         N00216 N00249  15k TC=0,0 
R_R5         N00223 N00242  15k TC=0,0 
R_R6         0 N00279  15k TC=0,0 
R_R7         N00264 N00367  15k TC=0,0 
V_V3         N00497 0  AC 1
+SIN 0 20m 100 0 0 0
V_V4         VCC 0 10Vdc
V_V5         -VCC 0 -10Vdc
X_U10         N00497 N00216 VCC -VCC N00249 TLC2201/102/TI
X_U11         0 N00223 VCC -VCC N00242 TLC2201/102/TI
X_U12         N00279 N00264 VCC -VCC N00367 TLC2201/102/TI
