* source INSAMP
X_U1         0 N00449 VCC -VCC N00457 OPA37/BB
X_U2         N01816 N00453 VCC -VCC N00469 OPA37/BB
X_U3         N00662 N00637 VCC -VCC N00718 OPA37/BB
V_V1         VCC 0 2.5Vdc
V_V2         0 -VCC 2.5Vdc
R_R1         N00453 N00469  100k TC=0,0 
R_R2         N00449 N00453  100 TC=0,0 
R_R3         N00457 N00449  100k TC=0,0 
R_R4         N00637 N00457  10K TC=0,0 
R_R5         N00718 N00637  66k TC=0,0 
R_R6         N00662 N00469  10K TC=0,0 
R_R7         0 N00662  66k TC=0,0 
X_V4         N015740 0 VRNDMN PARAMS: NVAL=1u
V_V5         N01816 0  AC 0
+SIN 0 10u 100 0 0 0
R_R8         N015740 0  1k TC=0,0 
