* source RC_AMP_LP
C_C2         N00637 N00627  150n  TC=0,0 
R_R1         N03721 N00627  6.8K TC=0,0 
R_R2         N00627 N00739  150K TC=0,0 
X_U1         N00739 N00637 VCC -VCC N00637 uA741
C_C1         0 N00739  15n  TC=0,0 
V_V2         0 -VCC 2.5Vdc
X_U2         N04244 N03569 VCC -VCC N03521 OPA37/BB
R_R6         N03525 N03521  10K TC=0,0 
R_R9         N03679 N03569  100 TC=0,0 
R_R8         N03569 N03521  100k TC=0,0 
R_R7         0 N03525  66k TC=0,0 
X_U4         0 N03679 VCC -VCC N03835 OPA37/BB
R_R3         N03835 N03679  100k TC=0,0 
X_U3         N03525 N03801 VCC -VCC N03721 OPA37/BB
R_R4         N03801 N03835  10K TC=0,0 
R_R5         N03721 N03801  66k TC=0,0 
V_V1         VCC 0 2.5Vdc
V_V3         N04234 0 DC 0Vdc AC 1Vac 
C_C3         0 N04244  3.3n  TC=0,0 
R_R10         N04234 N04244  2000 TC=0,0 
