* source RCFILTER
R_R1         N00120 N00067  {rsweep} TC=0,0 
C_C1         0 N00067  3.3n  TC=0,0 
V_V1         N00120 0 DC 0Vdc AC 1Vac 
.PARAM  rsweep=50300
